US08227500B2
4-(3-Cyano-4-hydroxymethylpyrrole-1-yl)benzoic acid ethyl ester
A suspension of 4-(tert-butyldiphenylsilanyloxymethyl)-1H-pyrrole-3-carbonitrile (0.3 g), 4-fluorobenzoic acid ethyl ester (0.35 g) and cesium carbonate (0.81 g) in N,N-dimethylformamide (2 mL) was stirred at 70° C. overnight. To this reaction mixture was added water, and this mixture was extracted with ethyl acetate. This organic layer was washed with water and brine, concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=80/20−30/70) to give the title compound (0.0310 g).

reactant | 4-(tert-butyldiphenylsilanyloxymethyl)-1H-pyrrole-3-carbonitrile | 0.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=CNC1)C#N | C22H24N2OSi
reactant | 4-fluorobenzoic acid ethyl ester | 0.35 g | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
reactant | cesium carbonate | 0.81 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(3-Cyano-4-hydroxymethylpyrrole-1-yl)benzoic acid ethyl ester | 0.0310 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C(=C1)CO)C#N)=O | C15H14N2O3
